US04959363
Ethyl 1-ethyl-1,4-dihydro-7-(5-isoxazolyl)-4-oxo-3-quinolinecarboxylate was prepared from 30.8 g ethyl 7-[3-(dimethylamino)-1-oxo-2-propenyl]-1-ethyl-1,4-dihydro-4oxo-3-quinolinecarboxylate and 6.95 g hydroxylamine hydrochloride according to the procedure of Example 23, part (b), and was obtained (28.1 g) in the form of a light-tan solid, m.p. 180-183° C. when recrystallized from ethanol.

reactant | ethyl 7-[3-(dimethylamino)-1-oxo-2-propenyl]-1-ethyl-1,4-dihydro-4oxo-3-quinolinecarboxylate | 30.8 g | CN(C=CC(=O)C1=CC=C2C(C(=CN(C2=C1)CC)C(=O)OCC)=O)C | C19H22N2O4
reactant | hydroxylamine hydrochloride | 6.95 g | Cl.NO
product | Ethyl 1-ethyl-1,4-dihydro-7-(5-isoxazolyl)-4-oxo-3-quinolinecarboxylate | C(C)N1C=C(C(C2=CC=C(C=C12)C1=CC=NO1)=O)C(=O)OCC | C17H16N2O4
